vdr_parallel_network - fault test
I1 0 T DC 0.012
R1 T 0 5887.398726
R2 T 0 175643.51418
R3 T 0 11958.94078
.op
.control
run
print v(T)
print @r1[i] @r2[i] @r3[i]
print @i1[i]
.endc
.end
